US07410972B2
(a) 3-Methoxy-5-phenyl-2-pyrazinamine
5-Bromo-3-methoxy-2-pyrazinamine (0.31 g), cesium fluoride (0.8 g), benzeneboronic acid (0.36 g) and [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) chloride (0.08 g) in methanol (7 mL) was heated at reflux for 2 hours. The solvent was evaporated and the residue purified by chromatography on silica eluting with toluene/ethyl acetate mixtures to give the sub-title compound (0.25 g).

reactant | 5-Bromo-3-methoxy-2-pyrazinamine | 0.31 g | BrC=1N=C(C(=NC1)N)OC | C5H6BrN3O
reactant | cesium fluoride | 0.8 g | [F-].[Cs+]
reactant | benzeneboronic acid | 0.36 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | methanol | 7 mL | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) chloride | 0.08 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Methoxy-5-phenyl-2-pyrazinamine | 0.25 g | COC=1C(=NC=C(N1)C1=CC=CC=C1)N | C11H11N3O
